**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Resonant Converter
* Matchcode:              WE-LLCR
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt	LLCR_ETD44_760895751		12  10  15  14  1  5  3  7	
.param RxLkg=20624.15ohm				
.param Leakage=65uh				
Rlkg	12	12a	{RxLkg}	
L_Lkg	12	12a	{Leakage}	
Lpri1	12a	10b	335uH	
Rser1	10b	10	64mohm	
Laux1	15	14a	2.195uH	
Rser3	14a	14	122mohm	
Lsec1	1	5a	19.753uH	
Rser5	5a	5	9.9mohm	
Lsec2	3	7a	19.753uH	
Rser6	7a	7	8.9mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=62.08pf				
.param Rdmp1=126917.83ohm				
Cpri1	12	10a	{Cprm1}	
Rser13	10a	10	10mohm	
Rdmp1	12	10	{Rdmp1}	
Rg3	12	0	20meg	
Rg5	15	0	20meg	
Rg7	10	0	20meg	
Rg9	14	0	20meg	
Rg11	1	0	20meg	
Rg12	3	0	20meg	
Rg19	5	0	20meg	
Rg20	7	0	20meg	
.ends				


.subckt	LLCR_ETD44_760895741		12  10  15  14  1  5  3  7	
.param RxLkg=23797.06ohm				
.param Leakage=65uh				
Rlkg	12	12a	{RxLkg}	
L_Lkg	12	12a	{Leakage}	
Lpri1	12a	10b	335uH	
Rser1	10b	10	62.8mohm	
Laux1	15	14a	2.195uH	
Rser3	14a	14	124mohm	
Lsec1	1	5a	4.938uH	
Rser5	5a	5	3.6mohm	
Lsec2	3	7a	4.938uH	
Rser6	7a	7	4mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=46.63pf				
.param Rdmp1=146443.46ohm				
Cpri1	12	10a	{Cprm1}	
Rser13	10a	10	10mohm	
Rdmp1	12	10	{Rdmp1}	
Rg3	12	0	20meg	
Rg5	15	0	20meg	
Rg7	10	0	20meg	
Rg9	14	0	20meg	
Rg11	1	0	20meg	
Rg12	3	0	20meg	
Rg19	5	0	20meg	
Rg20	7	0	20meg	
.ends				


.subckt	LLCR_ETD44_760895731		12  10  15  14  1  5  3  7	
.param RxLkg=30336.48ohm				
.param Leakage=100uh				
Rlkg	12	12a	{RxLkg}	
L_Lkg	12	12a	{Leakage}	
Lpri1	12a	10b	375uH	
Rser1	10b	10	106mohm	
Laux1	15	14a	3.49uH	
Rser3	14a	14	150mohm	
Lsec1	1	5a	1.551uH	
Rser5	5a	5	2.7mohm	
Lsec2	3	7a	1.551uH	
Rser6	7a	7	2.9mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=57.19pf				
.param Rdmp1=144098.26ohm				
Cpri1	12	10a	{Cprm1}	
Rser13	10a	10	10mohm	
Rdmp1	12	10	{Rdmp1}	
Rg3	12	0	20meg	
Rg5	15	0	20meg	
Rg7	10	0	20meg	
Rg9	14	0	20meg	
Rg11	1	0	20meg	
Rg12	3	0	20meg	
Rg19	5	0	20meg	
Rg20	7	0	20meg	
.ends				


.subckt	LLCR_ETD39_760895651		4  2  5  6  8  12  10  14	
.param RxLkg=29204.06ohm				
.param Leakage=95uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	2b	405uH	
Rser1	2b	2	121mohm	
Laux1	5	6a	3.673uH	
Rser3	6a	6	139mohm	
Lsec1	8	12a	26.122uH	
Rser5	12a	12	17.9mohm	
Lsec2	10	14a	26.122uH	
Rser6	14a	14	17.9mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=52.91pf				
.param Rdmp1=153705.56ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg9	6	0	20meg	
Rg11	8	0	20meg	
Rg12	10	0	20meg	
Rg19	12	0	20meg	
Rg20	14	0	20meg	
.ends				


.subckt	LLCR_ETD39_760895641		4  2  5  6  8  12  10  14	
.param RxLkg=26605.14ohm				
.param Leakage=95uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	2b	405uH	
Rser1	2b	2	120mohm	
Laux1	5	6a	3.673uH	
Rser3	6a	6	137mohm	
Lsec1	8	12a	6.531uH	
Rser5	12a	12	6.4mohm	
Lsec2	10	14a	6.531uH	
Rser6	14a	14	6.3mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=63.75pf				
.param Rdmp1=140027.07ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg9	6	0	20meg	
Rg11	8	0	20meg	
Rg12	10	0	20meg	
Rg19	12	0	20meg	
Rg20	14	0	20meg	
.ends				


.subckt	LLCR_ETD39_760895631		4  2  5  6  8  11  10  13	
.param RxLkg=30080.91ohm				
.param Leakage=95uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	2b	405uH	
Rser1	2b	2	123mohm	
Laux1	5	6a	3.673uH	
Rser3	6a	6	128mohm	
Lsec1	8	11a	1.633uH	
Rser5	11a	11	2.2mohm	
Lsec2	10	13a	1.633uH	
Rser6	13a	13	2mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=49.87pf				
.param Rdmp1=158320.56ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg9	6	0	20meg	
Rg11	8	0	20meg	
Rg12	10	0	20meg	
Rg19	11	0	20meg	
Rg20	13	0	20meg	
.ends				



.subckt	LLCR_ETD34_760895451		4  2  5  6  8  10  9  11	
.param RxLkg=29850.79ohm				
.param Leakage=100uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	2b	500uH	
Rser1	2b	2	228.5mohm	
Laux1	5	6a	4.408uH	
Rser3	6a	6	128mohm	
Lsec1	8	10a	31.347uH	
Rser5	10a	10	22.8mohm	
Lsec2	9	11a	31.347uH	
Rser6	11a	11	22.9mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=46.76pf				
.param Rdmp1=179104.71ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg9	6	0	20meg	
Rg11	8	0	20meg	
Rg12	9	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				



.subckt	LLCR_ETD34_760895441		4  2  5  6  8  10  9  11	
.param RxLkg=32592.14ohm				
.param Leakage=100uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	2b	500uH	
Rser1	2b	2	237mohm	
Laux1	5	6a	4.408uH	
Rser3	6a	6	121.7mohm	
Lsec1	8	10a	7.837uH	
Rser5	10a	10	7.4mohm	
Lsec2	9	11a	7.837uH	
Rser6	11a	11	7.4mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=39.225pf				
.param Rdmp1=195552.83ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg9	6	0	20meg	
Rg11	8	0	20meg	
Rg12	9	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				



.subckt	LLCR_ETD34_760895431		4  2  5  6  8  10  9  11	
.param RxLkg=31739.51ohm				
.param Leakage=100uh				
Rlkg	4	4a	{RxLkg}	
L_Lkg	4	4a	{Leakage}	
Lpri1	4a	2b	500uH	
Rser1	2b	2	229mohm	
Laux1	5	6a	4.408uH	
Rser3	6a	6	121.7mohm	
Lsec1	8	10a	1.959uH	
Rser5	10a	10	2.88mohm	
Lsec2	9	11a	1.959uH	
Rser6	11a	11	2.3mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1				
.param Cprm1=41.36pf				
.param Rdmp1=190437.06ohm				
Cpri1	4	2a	{Cprm1}	
Rser13	2a	2	10mohm	
Rdmp1	4	2	{Rdmp1}	
Rg3	4	0	20meg	
Rg5	5	0	20meg	
Rg7	2	0	20meg	
Rg9	6	0	20meg	
Rg11	8	0	20meg	
Rg12	9	0	20meg	
Rg19	10	0	20meg	
Rg20	11	0	20meg	
.ends				
